US04510136
Preparation of (Chloromethyl)triphenylsilane
A solution of 12.6 ml (18.4 g, 0.10 mol) of (chloromethyl)trichlorosilane in 150 ml of dry ether was stirred under nitrogen and chilled in ice while 162 ml (0.30 mol) of 1.85 molar phenyllithium in cyclohexane-ether 70:30 was added dropwise at a rate that held the mixture below 15° C. The resulting slurry was stirred overnight at room temperature, treated carefully with 10 ml of ethyl acetate to quench any remaining phenyllithium, washed with water and brine, dried over magnesium sulfate, and evaporated to leave 33 g of sticky solid. Recrystallization from 30 ml of cyclohexane provided 15.8 g (51%) of the title compound as an off white solid: m.p. 112°-115° C.; ir (Nujol®) 1420, 1110, 735, 730, 705, 695 cm-1 ; nmr (CDCl3) 3.5 (2H, s), 7.0-7.8 (15H, m).

reactant | (chloromethyl)trichlorosilane | 0.10 mol, 12.6 ml, 18.4 g | ClC[Si](Cl)(Cl)Cl | CH2Cl4Si
reactant | phenyllithium | 0.30 mol, 1.85 molar, 162 ml | C1(=CC=CC=C1)[Li]
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | 150 ml | CCOCC | C4H10O
product | (Chloromethyl)triphenylsilane | 33 g | ClC[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H17ClSi
